US06476045B2
1-{3-[6-Chloro-2-(4-chlorophenyl)imidazo[1,2-a]pyridine-3-yl]-1-oxopropyl}-4-(phenylmethyl)-4-piperidinol
Sodium borohydride (30 mg, 0.8 mmol) was added to a solution of (E)-1-{3-[6-chloro-2-(4-chlorophenyl)imidazo[1,2-a]pyridine-3-yl]-1-oxo-2-propenyl}-4-(phenylmethyl)-4-piperidinol (Description 20, 40 mg, 0.08 mmol) in pyridine/methanol (3:1, 4 mL) and the mixture was stirred under reflux for 2 h. Further portions of sodium borohydride (30 mg, 0.8 mmol) were added and the reaction was monitored by mass spectrometry until no starting material remained. The mixture was cooled, poured into water (75 mL) and extracted with ethyl acetate (3×25 mL). The combined organic fractions were washed with brine, dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with isohexane/EtOAc (35:65). The residue was recrystallised from ethanol/water and the solid was collected and dried in vacuo to give the title compound as a colorless solid. 1H NMR (360 MHz, CDCl3) δ 8.18 (1H, d, J 1.5 Hz), 7.74 (2H, d, J 8.5 Hz), 7.56 (1H, d, J 9.6 Hz), 7.44 (2H, d, J 8.5 Hz), 7.30 (3H, m), 7.15 (3H, m), 4.40 (1H, m), 3.47 (2H, m), 3.43 (1H, m), 3.24 (1H, m), 2.92 (1H, m), 2.68 (2H, s), 2.64 (2H, t, J 7.5 Hz), 1.46 (2H, m), and 1.24 (2H, m). m/z (ES+) 508, 510 (M+1).

reactant | Sodium borohydride | 0.8 mmol, 30 mg | [BH4-].[Na+]
reactant | (E)-1-{3-[6-chloro-2-(4-chlorophenyl)imidazo[1,2-a]pyridine-3-yl]-1-oxo-2-propenyl}-4-(phenylmethyl)-4-piperidinol | 0.08 mmol, 40 mg | ClC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)Cl)/C=C/C(=O)N2CCC(CC2)(O)CC2=CC=CC=C2 | C28H25Cl2N3O2
reactant | sodium borohydride | 0.8 mmol, 30 mg | [BH4-].[Na+]
reactant | water | 75 mL | O | H2O
solvent | pyridine methanol | 4 mL | N1=CC=CC=C1.CO
product | 1-{3-[6-Chloro-2-(4-chlorophenyl)imidazo[1,2-a]pyridine-3-yl]-1-oxopropyl}-4-(phenylmethyl)-4-piperidinol | ClC=1C=CC=2N(C1)C(=C(N2)C2=CC=C(C=C2)Cl)CCC(=O)N2CCC(CC2)(O)CC2=CC=CC=C2 | C28H27Cl2N3O2
